US04994482
Sodium hydride (1.57 g of 50% dispersion, 32 mmol) was washed twice with hexanes, covered with DMF (100 mL), and a mixture of 3,4-diphenyl-lH-pyrazole and 4,5-diphenyl-lH-pyrazole (6.00 g, 27 mmol) was added. After gas evolution had ceased, the mixture was stirred for 10 minutes before adding methyl 8-bromooctanoate (7.10 g, 30 mmol). The mixture was stirred at room temperature for 40 minutes, diluted with water, and extracted with diethyl ether (3 times). The combined extracts were washed with water (3 times), dried over sodium sulfate, and concentrated in vacuo to leave an oil. Repeated chromatography on a column of silica gel using a mixture of hexanes and diethyl ether (2:1) as eluant provided methyl 3,4-diphenyl-lH-pyrazole-1-octanoate (6.11 g, 59%) as an oil. MS(CI): m/e =377 (MH+).

reactant | Sodium hydride | 32 mmol, 1.57 g | [H-].[Na+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | 3,4-diphenyl-lH-pyrazole | C1(=CC=CC=C1)C1=NNC=C1C1=CC=CC=C1 | C15H12N2
reactant | 4,5-diphenyl-lH-pyrazole | 27 mmol, 6.00 g | C1(=CC=CC=C1)C=1C=NNC1C1=CC=CC=C1 | C15H12N2
reactant | methyl 8-bromooctanoate | 30 mmol, 7.10 g | BrCCCCCCCC(=O)OC | C9H17BrO2
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 3,4-diphenyl-lH-pyrazole-1-octanoate | 6.11 g, 59% | C1(=CC=CC=C1)C1=NN(C=C1C1=CC=CC=C1)CCCCCCCC(=O)OC | C24H28N2O2
